US06987114B1
1-(Pyridin-3-ylmethyl)-5-isopropyl-6-(3,5-dimethylbenzoyl)-2,4-pyrimidinedione
5-Isopropyl-6-(3,5-dimethylbenzoyl)-2,4-pyrimidinedione and 3-picolyl chloride were reacted by the same way with the example 1 to obtain the titled compound (152 mg, yield: 40.3%).

reactant | 5-Isopropyl-6-(3,5-dimethylbenzoyl)-2,4-pyrimidinedione | C(C)(C)C=1C(NC(NC1C(C1=CC(=CC(=C1)C)C)=O)=O)=O | C16H18N2O3
reactant | 3-picolyl chloride | N1=CC(=CC=C1)CCl | C6H6ClN
product | 1-(Pyridin-3-ylmethyl)-5-isopropyl-6-(3,5-dimethylbenzoyl)-2,4-pyrimidinedione | 152 mg, yield: 40.3% | N1=CC(=CC=C1)CN1C(NC(C(=C1C(C1=CC(=CC(=C1)C)C)=O)C(C)C)=O)=O | C22H23N3O3
